Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
shellfish derived / oral contraceptive pills / escitalopram / 
Percocet
 
Attending: ___
 
Chief Complaint:
Symptomatic uterine fibroids
 
Major Surgical or Invasive Procedure:
abdominal myomectomy, removal of right ovarian fibroma, left 
ovarian cystectomy

 
History of Present Illness:
HPI:
___ is a ___ gravida 1 para 0, TAB x1 LMP
___ who presents to my practice to discuss her symptomatic
fibroid uterus.  She has been experiencing increased menstrual
bleeding, uterine cramping and lower back pain.  She states she
cycles monthly and has heavy moderate bleeding for 7 days. 
During her heaviest bleeding episodes, she changes a sanitary
product every 4 hours.  She denies intramenstrual bleeding,
postcoital bleeding or dyspareunia.  Her uterine fibroids were
diagnosed in ___.  Her last hematocrit was 40%.

On ___, she had a pelvic ultrasound which showed an
anteverted uterus that was enlarged and measured 18.6 x 7.8 x
11.9 cm, significantly increased in size when compared to prior
exam of ___ when her uterus measured 10.7 x 6.3 x 5.4 cm.  
There
is a large uterine fibroid measuring 10.8 x 7.8 x 10.5 cm,
previously measured 7.2 x 6.1 x 6.2 cm.  The endometrium was
distorted by fibroids and could not be visualized.  The ovaries
were normal and there is no free fluid.  These findings were
discussed with the patient and her questions were answered to 
her
satisfaction.

OB/GYN history: Menarche at 12.
Menses as described above.
Her last Pap was ___ and was normal.
She denies any history of abnormal Pap smears.  She is
heterosexual and currently sexually active.  She uses condoms 
for
fertility control and STD protection.
She does have a history of chlamydia in ___.
She has had one pregnancy that ended in a therapeutic abortion.
 
Past Medical History:
Past Medical History:
PREMENSTRUAL SYNDROME                                           

DIABETES MELLITUS   
-last hemoglobin A1c was 5.7 per patient reporting               


ONYCHOMYCOSIS                                         ___       


ALLERGIC RHINITIS                                               

ASTHMA                                                           

-well-controlled with albuterol, never required hospitalization
or intubation  

Surgical History:
CHOLECYSTECTOMY                                       ___   
___                                                 

                                           

 
Social History:
Country of Origin:  ___.                                        
Marital status:     Single                                      
Children:           No                                          
Lives with:         Siblings; Parents                           
Work: ___
Multiple partners:  Past                                        
___ activity:    Past                                        
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      Condoms - Male                              
Tobacco use:        Never smoker                                
Alcohol use:        Present                            
Alcohol use         once every few months, socially             
comments:                                                       
Recreational drugs  Denies        
 
Family History:
Mother                DIABETES MELLITUS                         
                      HYPERTENSION                              
                      FIBROID UTERUS                            

Sister                DIABETES MELLITUS                         
                      HYPERTENSION                              

Father                HYPERTENSION                              

Comments: no cancer.          
 
Physical Exam:
Physical Exam:
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, mildly distended, appropriately tender, + BS, no
rebound or guarding, ___ incision with steristrips
intact, no erythema or induration
Extremities: no edema, non-tender to palpation, pboots in place

 
Pertinent Results:
___ 07:00AM   WBC-8.0 RBC-3.95 HGB-12.2 HCT-36.7 MCV-93 
MCH-30.9 MCHC-33.2 RDW-13.1 RDWSD-45.1
___ 07:00AM   PLT COUNT-322
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing an abdominal myomectomy, removal of right 
ovarian fibroma, and I&D of simple-appearing left ovarian cyst 
for symptomatic fibroid uterus. Please see the operative report 
for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV Dilaudid/Toradol. .

On post-operative day 1, her urine output was adequate, so her 
foley was removed, and she voided spontaneously. Her diet was 
advanced without difficulty, and she was transitioned to *PO 
dilaudid, ibuprofen, and acetaminophen. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
1. flunisolide 25 mcg nasal spray
2. metformin ER 500 mg
3. Sertraline 50 mg tablet
4. cetirizine 10 mg tablet
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
do not exceed 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*60 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
may take with dilaudid to reduce constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
as needed Disp #*60 Tablet Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drink or drive while taking 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours as needed Disp #*16 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours as 
needed Disp #*60 Tablet Refills:*1 
5.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
6.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic fibroid uterus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.
* If you have staples, they will be removed at your follow-up 
visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___